US09302996B2
N,N-dimethylformamide (30 mL) was added to 4-bromo-2-fluorobenzonitrile (2000 mg), methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate (4191 mg) and palladium chloride (dppf) methylene chloride complex (408 mg), and after adding 2N aqueous sodium carbonate solution (15 mL) to the mixture, the atmosphere was replaced with nitrogen and the resulting mixture was stirred at 60° C. for 7 hours. Ethyl acetate and water were added to the reaction mixture, and the liquids were separated. The organic layer was separated, washed with a saturated brine, and the residue obtained by concentrating the mixture under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 to 80:20) to obtain methyl 3-{[5-(4-cyano-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate (3587 mg).

reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | 4-bromo-2-fluorobenzonitrile | 2000 mg | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate | 4191 mg | CC(C(=O)OC)(COC1=NC=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H28BNO5
reactant | sodium carbonate | 2N, 15 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-{[5-(4-cyano-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate | 3587 mg | C(#N)C1=C(C=C(C=C1)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C)F | C19H19FN2O3
